US08202895B2
[(tert-Butoxycarbonyl)amino](3-chloro-2-fluorophenyl)acetic acid
A quantity of 5 g (24.56 mmol) of 3-chloro-2-fluoro-DL-phenylglycine was suspended in dioxane and 147 ml of 5% strength aqueous sodium hydrogen carbonate solution. Then 5.36 g (24.56 mmol) of di-tert-butyl dicarbonate were added. The suspension was stirred at RT overnight. Ethyl acetate was added to the white suspension, these components were stirred together, and the precipitate was filtered off with suction. The mother liquor was extracted. The aqueous phase was extracted once again with ethyl acetate. The combined organic phases were dried over sodium sulphate, filtered and concentrated on a rotary evaporator. Drying in an HV gave 0.59 g (7.7% of theory) of the title compound.

reactant | 3-chloro-2-fluoro-DL-phenylglycine | 24.56 mmol, 5 g | C1=CC(=C(C(=C1)Cl)F)C(C(=O)O)N | C8H7ClFNO2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | di-tert-butyl dicarbonate | 24.56 mmol, 5.36 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | [(tert-Butoxycarbonyl)amino](3-chloro-2-fluorophenyl)acetic acid | C(C)(C)(C)OC(=O)NC(C(=O)O)C1=C(C(=CC=C1)Cl)F | C13H15ClFNO4
